US04552696
C. 1-(2-triphenylmethylthioethyl)pyridinium methanesulfonate
A mixture of 2-(triphenylmethylthio)ethyl methanesulfonate (0.598 g, 1.50 mmol), tetra-n-butylammonium iodide (0.020 g) and pyridine (1.2 mL, 15.0 mmol) was heated at 90° C. under a nitrogen atmosphere for 3 h. After cooling to 25° C., the pyridine was evaporated under reduced pressure to a white solid which was triturated in ether and filtered 0.66 g, (92%), mp 135°-50° C. dec. ir (KBr) νmax : 1628 (pyridinium), 1590, 1575 (phenyl), 1190 cm-1 (sulfonate), 1Hmr (DMSO-d6)δ: 2.31 (3H, s, CH3SO3-), 2.82 (2H, m, CH2S), 4.40 (2H, m, CH2N+), 7.28 (15H, m, phenyl), 8.12 (2H, m, Hm of pyridinium), 8.59 (1H, m, Hp of pyridinium), 8.84-8.85 (2H, dd, J=1.3 Hz, J= 6.7 Hz, Ho of pyridinium). Anal. calcd. for C27H37NO3S2.H2O: C 65.43, H 5.90, N 2.83, S 12.94; found: C 65.77, H 5.81, N 3.25, S 12.55.

reactant | 2-(triphenylmethylthio)ethyl methanesulfonate | 1.50 mmol, 0.598 g | CS(=O)(=O)OCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22O3S2
reactant | pyridine | 15.0 mmol, 1.2 mL | N1=CC=CC=C1 | C5H5N
catalyst | tetra-n-butylammonium iodide | 0.020 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(2-triphenylmethylthioethyl)pyridinium methanesulfonate | CS(=O)(=O)[O-].C1(=CC=CC=C1)C(SCC[N+]1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H24NS.CH4O3S/c1-5-13-23(14-6-1)26(24-15-7-2-8-16-24,25-17-9-3-10-18-25)28-22-21-27-19-11-4-12-20-27;1-5(2,3)4/h1-20H,21-22H2;1H3,(H,2,3,4)/q+1;/p-1
